US08202865B2
Step 2: 2-methyl-2′-(trifluoromethyl)biphenyl-4-carboxylic acid
To a solution of methyl 2-methyl-2′-(trifluoromethyl)biphenyl-4-carboxylate, prepared in step 1 (3 g; 10.19 mmol; 1 eq.) in EtOH (90 mL), was added at RT an aqueous solution of sodium hydroxide (6.12 mL; 5 M; 30.58 mmol; 3 eq.). The reaction mixture was stirred at 60° C. for one hour. The reaction mixture was concentrated under vacuum to give a brown solid. It was taken up in water (400 mL) and the aqueous phase was washed twice with EtOAc (200 mL). Aqueous phase was acidified with concentrated HCl (2 mL) to pH 2. Then it was concentrated under vacuum until a precipitate was formed (⅓ of volume). The suspension was filtered off and dried under vacuum, affording the title compound as a beige solid (2.41 g, 84%). 1H NMR: (DMSO-d6, 300 MHz) δ 13.03 (s, 1H), 7.91-7.68 (m, 5H), 7.38-7.36 (d, J=8.27 Hz, 1H), 7.27-7.25 (d, J=8.24 Hz, 1H), 2.05 (s, 3H). LC/MS (Method A): 279.0 (M−H)−. HPLC (Method A) Rt 4.49 min (Purity: 95.7%).

reactant | methyl 2-methyl-2′-(trifluoromethyl)biphenyl-4-carboxylate | CC1=C(C=CC(=C1)C(=O)OC)C1=C(C=CC=C1)C(F)(F)F | C16H13F3O2
reactant | sodium hydroxide | 30.58 mmol, 5 M, 6.12 mL, 3 eq. | [OH-].[Na+]
solvent | EtOH | 90 mL | CCO | C2H6O
solvent | water | 400 mL | O | H2O
product | 2-methyl-2′-(trifluoromethyl)biphenyl-4-carboxylic acid | 2.41 g, 84% | CC1=C(C=CC(=C1)C(=O)O)C1=C(C=CC=C1)C(F)(F)F | C15H11F3O2
